US08076329B2
A solution of trans-3,5-dimethyl-1-{3-[4-(3-oxopropanoyl)phenoxy]propyl}-piperidine (200 mg) in a mixture of hydrazine hydrate (50 μL) and methanol (4 mL) is stirred for one hour at room temperature. The mixture is diluted with water and extracted twice with ethyl acetate, dried over magnesium sulphate, concentrated under reduced pressure and purified by chromatography over silica gel. Fractions containing the expected product are pooled, concentrated under reduced pressure and salted with oxalic acid to afford 142 mg of trans-3,5-dimethyl-1-{3-[4-(pyrazol-3-yl)phenoxy]propyl}piperidine, oxalate as a pale yellow solid.

reactant | trans-3,5-dimethyl-1-{3-[4-(3-oxopropanoyl)phenoxy]propyl}-piperidine | 200 mg | C[C@@H]1CN(C[C@H](C1)C)CCCOC1=CC=C(C=C1)C(CC=O)=O | C19H27NO3
reactant | hydrazine hydrate | 50 μL | O.NN
solvent | methanol | 4 mL | CO | CH4O
solvent | water | O | H2O
product | trans-3,5-dimethyl-1-{3-[4-(pyrazol-3-yl)phenoxy]propyl}piperidine | 142 mg | C[C@@H]1CN(C[C@H](C1)C)CCCOC1=CC=C(C=C1)C1=NNC=C1 | C19H27N3O
